US08486953B2
Preparation of 4-chloro-N-(3-(dimethylamino)propyl)-5-methylthieno[2,3-d]pyrimidine-6-sulfonamide hydrochloride salt
To N-(3-(dimethylamino)propyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-sulfonamide (0.6 g, 1.8 mmol) was added phosphorus oxychloride (5.0 mL, 36 mmol) and the suspension heated at reflux for 1.5 hours. The reaction was cooled to ambient temperature and the excess phosphorus oxychloride removed under vacuum. The residue was co-evaporated several times with chloroform. Drying under vacuum gave a hydroscopic cream solid that was used without further purification (0.65 g, 92%).

reactant | N-(3-(dimethylamino)propyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-sulfonamide | 1.8 mmol, 0.6 g | CN(CCCNS(=O)(=O)C1=C(C2=C(N=CNC2=O)S1)C)C | C12H18N4O3S2
reactant | phosphorus oxychloride | 36 mmol, 5.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-N-(3-(dimethylamino)propyl)-5-methylthieno[2,3-d]pyrimidine-6-sulfonamide hydrochloride salt | Cl.ClC=1C2=C(N=CN1)SC(=C2C)S(=O)(=O)NCCCN(C)C | InChI=1S/C12H17ClN4O2S2.ClH/c1-8-9-10(13)14-7-15-11(9)20-12(8)21(18,19)16-5-4-6-17(2)3;/h7,16H,4-6H2,1-3H3;1H
